US04512997
A solution of 6 g of 3,4-bis-(4-methoxyphenyl)-5-ethyl-4H-1,2,4-triazole and 25 ml of a solution of hydrobromic acid at 48% was refluxed with stirring for one hour and the hydrobromic acid was distilled under reduced pressure. The crystalline residue was dissolved in 30 ml of hot water and ammonium hydroxide was added thereto until the pH was alkaline. The mixture stood overnight with stirring and was vacuum filtered. The product was washed with water and dried at 90° C. under reduced pressure to obtain a product which was crystallized from dimethylformamide. The mixture was iced for one hour and was vacuum filtered. The product was washed with a 3-4 dimethylformamide-water mixture and dried to obtain 4.395 g of 4,4'-(3-ethyl-4H-1,2,4-triazol-4,5-diyl)-bis-phenol melting at 317°-318° C.

reactant | 3,4-bis-(4-methoxyphenyl)-5-ethyl-4H-1,2,4-triazole | 6 g | COC1=CC=C(C=C1)C1=NN=C(N1C1=CC=C(C=C1)OC)CC | C18H19N3O2
reactant | hydrobromic acid | Br | BrH
product | 4,4'-(3-ethyl-4H-1,2,4-triazol-4,5-diyl)-bis-phenol | 4.395 g | C(C)C1=NN=C(N1C1=CC=C(C=C1)O)C1=CC=C(C=C1)O | C16H15N3O2
